US07728010B2
Step 1. 4-{2-(3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-phenyl amino]-1-methyl-1H-benzoimidazol-5-yloxy}-pyridine-2-carboxylic acid methyl amide
To a mixture of 4-[2-(3-Ethyl-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid methylamide (1 eq) (prepared using previously described example 2), benzyl azide (1 eq) in t-butanol (0.1M) was added sodium ascorbate (0.05 eq), and copper (II) sulfate pentahydrate (0.01 eq). The resulting mixture was allowed to stir for 1 hour at room temperature. The mixture was then diluted with water and the solid collect via suction filtration. MS: MH+ 531

reactant | 4-[2-(3-Ethyl-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid methylamide | 1 eq | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N(C(=N2)NC2=CC(=CC=C2)CC)C)C=C1 | C23H23N5O2
reactant | benzyl azide | 1 eq | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | sodium ascorbate | 0.05 eq | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-butanol | 0.1M | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
catalyst | copper (II) sulfate pentahydrate | 0.01 eq | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 4-{2-(3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-phenyl amino]-1-methyl-1H-benzoimidazol-5-yloxy}-pyridine-2-carboxylic acid methyl amide | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N(C(=N2)NC2=CC(=CC=C2)C=2N=NN(C2)CC2=CC=CC=C2)C)C=C1 | C30H26N8O2
